US07329633B2
imazalil;
imibenconazole; iminoctadine triacetate; iminoctadine tris(albesil); iodocarb; ipconazole; iprobenfos; iprodione; iprovalicarb; irumamycin; isoprothiolane; isovaledione;

reactant | imibenconazole | C1=CC(=CC=C1CSC(=NC2=C(C=C(C=C2)Cl)Cl)CN3C=NC=N3)Cl | C17H13Cl3N4S
reactant | iminoctadine triacetate | CC(=O)O.CC(=O)O.CC(=O)O.C(CCCCN=C(N)N)CCCNCCCCCCCCN=C(N)N
reactant | iminoctadine | C(CCCCN=C(N)N)CCCNCCCCCCCCN=C(N)N | C18H41N7
reactant | iodocarb | CCCCNC(=O)OCC#CI | C8H12INO2
reactant | ipconazole | CC(C)C1CCC(C1(CN2C=NC=N2)O)CC=3C=CC(=CC3)Cl | C18H24ClN3O
reactant | iprobenfos | CC(C)OP(=O)(OC(C)C)SCC=1C=CC=CC1 | C13H21O3PS
reactant | iprodione | CC(C)NC(=O)N1CC(=O)N(C1=O)C=2C=C(C=C(C2)Cl)Cl | C13H13Cl2N3O3
reactant | iprovalicarb | CC1=CC=C(C=C1)C(C)NC(=O)[C@@H](C(C)C)NC(=O)OC(C)C | C18H28N2O3
reactant | irumamycin | CCC(=O)C1(C(O1)C(C)CC(C)C2C(C(C(/C=C/C(CCC/C=C(/C3C(=CCC(O3)(CC(=O)O2)O)C)\C)OC4CC(C(C(O4)C)O)OC(=O)N)C)O)C)C | C41H65NO12
reactant | isoprothiolane | CC(C)OC(=O)C(=C1SCCS1)C(=O)OC(C)C | C12H18O4S2
reactant | isovaledione | CC(C)CC(=O)N1CC(=O)N(C1=O)C2=CC(=CC(=C2)Cl)Cl | C14H14Cl2N2O3
product | imazalil | C=CCOC(CN1C=CN=C1)C2=C(C=C(C=C2)Cl)Cl | C14H14Cl2N2O
